US05134111
(a) Preparation of ethyl (E)-3-(3-methoxy-4-methoxymethoxy-5-propyl-1-naphthyl)-2-methylpropenoate
45 g of 60% sodium hydride was suspended in 650 ml of N,N-dimethylformamide and cooled to 10° C. 355 g of triethyl 2-phosphonopropionate was added to the solution to make a clear solution. A solution of 270 g of 3-methoxy-4-methoxymethoxy-5-propyl-1-naphthalenecarbaldehyde in N,N-dimethylformamide (250 ml) was dropped in the solution and stirred at room temperature for 1 hour. The reaction mixture was poured into brine and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (8% ethyl acetate/hexane) to obtain 325.3 g of the titled compound as a pale yellow oil (containing a small amount of Z isomer).

reactant | sodium hydride | 45 g | [H-].[Na+]
reactant | triethyl 2-phosphonopropionate | 355 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | 3-methoxy-4-methoxymethoxy-5-propyl-1-naphthalenecarbaldehyde | 270 g | COC=1C=C(C2=CC=CC(=C2C1OCOC)CCC)C=O | C17H20O4
solvent | N,N-dimethylformamide | 650 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | ethyl (E)-3-(3-methoxy-4-methoxymethoxy-5-propyl-1-naphthyl)-2-methylpropenoate | 325.3 g | COC=1C=C(C2=CC=CC(=C2C1OCOC)CCC)/C=C(/C(=O)OCC)\C | C22H28O5
